US06184394B2
To a nitrogen-purged, 300-mL, three-neck, round-bottom flask equipped with a thermocouple/thermowell, addition funnel, distillation head, and magnetic stirrer was charged 75 mL of toluene and 26.71 g (0.100 mole) of distilled ethyl 3-bromo-2-ethoxytetrahydro-3-furoate and 42 mL (0.11 mole) of 21 % alcoholic sodium ethoxide. The mixture was heated to 50° C. while following the course of reaction by GC. An additional 17 mL (0.046 mole) of sodium ethoxide solution was needed to complete the reaction. The pressure of the system was lowered to about 210 mm to distill the ethanol/toluene azeotrope. When most of the ethanol was removed the mixture was cooled to room temperature and 50 mL of 5% hydrochloric acid was added. The layers were separated and the aqueous layer was extracted once with 25 mL of toluene. The two organic layers were combined and washed with 50 mL of 5% aqueous sodium bicarbonate and 50 mL of saturated sodium bicarbonate. The solution was dried over anhydrous magnesium sulfate and decolorizing carbon then filtered. Solvent was removed from the filtrate by distillation through a 1 0-inch Vigreux column at atmospheric pressure. The resulting ethyl 3-furoate weighed 11.25 g. Analysis by GC showed 90.4 area% ethyl 3-furoate and 9.6 area% toluene. The assay-yield of ethyl 3-furoate was 10.2 g (72.6% of theory). The identity of the product was confirmed by NMR and mass spectrometry.

reactant | ethyl 3-bromo-2-ethoxytetrahydro-3-furoate | 0.100 mole, 26.71 g | BrC1(C(OCC1)OCC)C(=O)OCC | C9H15BrO4
reactant | sodium ethoxide | 0.11 mole, 42 mL | [O-]CC.[Na+]
reactant | sodium ethoxide | 0.046 mole, 17 mL | [O-]CC.[Na+]
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-furoate | O1C=C(C=C1)C(=O)OCC | C7H8O3
